Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"it is taking all my energy to control the feeling of wanting to 
kill myself" 
 
Major Surgical or Invasive Procedure:
N/A

 
History of Present Illness:
Ms. ___ is a ___ ___ female with pphx of Bipolar 
Disorder, ADHD, tobacco use disorder and pmh of HTN and s/p 
gastric sleeve in ___ who was referred to the ED by 
psychiatrist for increasing depression and suicidal ideation w/ 
recent suicide attempt by overdosing on benzodiazepines and 1 
week of RLQ pain. 
.
Patient describes feeling depressed ("feeling bad in general") 
to the point of having a strong desire to kill herself. She 
describes wanting to be alive, but it is taking all of her 
energy to not kill herself. She denies having any specific plan. 
She has had suicidal ideation for the last 3 weeks. Notably 
three weeks ago she attempted to kill herself by overdosing on 
benzodiazepines. She is unsure of the quantity that she took, 
but she remembers taking "all of the pills". She believes she 
had been drinking and states she cannot recall the specific 
details of the event.She recalls being angry at her mother for 
telling her she should not have a friend over, which she 
describes as pushing her over the edge. She states an ambulance 
came and picked her up, but family who were physicians requested 
that she not be brought to a hospital (due to conditions in the 
hospital in PR) and they stated they would monitor her. She 
notes being ambivalent about living, and she currently finds 
idea of not being alive as comforting. She notes she was in 
___ for her friend's mother's funeral, but she states 
she doesn't feel this was the stressor that led to her 
overdosing on pills. 
.
Patient notes being depressed for several months, which has 
worsened lately. She describes hypersomnia (sleeping over 16 hrs 
some days), low energy, difficulty focusing at work, anhedonia, 
and hopelessness. Regarding concentration problems, patient 
reports being prescribed 3 different ADHD medications. She notes 
she works up to 12 hrs per day and she takes the short acting as 
well as the vyvanse bc she works so many hrs. She denies 
appetite problems. She does note hx of binge eating, which is 
now better controlled on topiramate. She notes reacting 
emotionally at work more often and being more irritable. She 
denies having symptoms of mania recently including decreased 
need for sleep, grandiosity, distractibility, elevated energy, 
and risky behavior. She describes having a manic episode 
(decreased need for sleep, grandiosity, increased risky 
behavior- jumped from a moving vehicle bc she felt like she 
could, racing thoughts) in ___, which resulted in her being 
hospitalized. She denies delusional thought content, AVH, and 
HI. Patient does note hx of sexual trauma and having frequent 
daily flashbacks and having difficulty trusting men bc of her 
previous trauma.Patient denies any acute stressor, but she does 
note ongoing stress associated with work and feeling more lonely 
as of lately especially after returning from ___. 
.
In the ED, patient was found to have colitis on abdominal CT and 
recommended to be on 7 days of antibx. 
.
Collateral Contacts: Spoke to psychiatrist Dr. ___ - cell 
___ Private Practice Diagnoses: bipolar disorder,ADHD 
worked with her for about ___ yrs He describes being very 
concerned for her bc she has been relatively stable and has not 
been hospitalized in a long time. He is concerned for her safety 
and feels she would benefit from a psychiatric hospitalization. 
She has had some hypomania (being loud, gradiose, wearing more 
makeup, disturbed sleep) in past few yrs but has had more 
depression. He mentions that patient did have problems with 
alcohol. 
.
___ (mother) ___ - left a message
 
Past Medical History:
PAST PSYCHIATRIC HISTORY: Diagnoses: Bipolar Disorder, ADHD, 
PTSD, Binge Eating disorder Patient notes being relatively 
stable from ___ to this yr Hospitalizations: she notes several 
hospitalizations in ___. ___ one when she was ___ yo. 
Most recent hospitalization in ___ for Mania. Current treaters 
and treatment: Dr. ___ (psychiatrist, sees monthly), no 
therapist Medication and ECT trials: Been on several 
medications, notes being most stable on current regimen of 
abilify, wellbutrin, topiramate, Ativan Self-injury: Most recent 
attempt 3 weeks ago by benzodiazepine overdose. She notes 
suicide attempts when she was a teenager but is unclear on the 
details Harm to others: Denies PAST MEDICAL HISTORY: HTN Gastric 
sleeve in ___ Cholecystectomy
.
PCP: ___ 
.
HOME MEDICATIONS: Per OMR hx tab and confirmed w. patient 
Lorazepam 1mg TID PRN anxiety Vyvanse 60mg daily Guanfacine HCL 
ER 3mg daily Dextroamp-Amphetamine 20mg daily Buproprion XL 
300mg daily Topiramate 50mg BID Aripiprazole 20mg daily 
Chlorthalidone 25mg daily. ___ checked - Patient is noted 
to have 1 prescriber and using 1 pharmacy. Adderall and Vyvanse 
has been filled monthly and no early prescriptions in last yr. 
.
ALLERGIES: NKDA
.
SUBSTANCE ABUSE HISTORY: EtOH: drinks 2 glasses of wine, 2 to 3 
times per week. Denies w/d symptoms and hx of blackouts 
Marijuana- uses daily for last ___ yrs. helps her to relax. uses 
via vaporizer Opiates: Denies Cocaine: Denies Stimulants: Takes 
prescribed adderall and vyvanse denies misusing medication 
Tobacco: 1 pack every 2 to 3 days, hoping to quit 
.
FORENSIC HISTORY: ___
Social History:
___
Family History:
FAMILY PSYCHIATRIC HISTORY: Psychiatric Diagnoses: Father w/ 
bipolar disorder Substance Use Disorder: Denies Completed 
Suicide & Suicide Attempts: Denies
 
Physical Exam:
EXAM:
.
General: no acute distress
-HEENT: Normocephalic, atraumatic.  Moist mucous membranes, 
oropharynx clear, supple neck.  No scleral icterus.
-Cardiovascular: Regular rate and rhythm, S1/S2 heard, no 
murmurs/rubs/gallops. Distal pulses ___ throughout.
-Pulmonary: No increased work of breathing.  Lungs clear to 
auscultation bilaterally.  No wheezes/rhonchi/rales.
-Abdominal: Non-distended, bowel sounds normoactive. tender to 
palpation in RLQ.  No guarding, no rebound tenderness.
-Extremities: Warm and well-perfused.  No edema of the limbs.
-Skin: No rashes or lesions noted.
.
Neurological:
-Cranial Nerves:
---I: Olfaction not tested.
---II: PERRL 3 to 2mm, both directly and consentually; brisk 
bilaterally.  VFF to confrontation.
---III, IV, VI: EOMI without nystagmus
---V: Facial sensation intact to light touch in all 
distributions
---VII: No facial droop, facial musculature symmetric and ___ 
strength in upper and lower distributions, bilaterally
---VIII: Hearing intact to finger rub bilaterally
---IX, X: Palate elevates symmetrically
---XI: ___ strength in trapezii and SCM bilaterally
---XII: Tongue protrudes in midline
-Motor: Normal bulk and tone bilaterally. No abnormal movements, 
no tremor. Strength ___ throughout.
-Sensory: No deficits to fine touch throughout
-DTRs: 2 and symmetrical throughout
Coordination: Normal on finger to nose test, no intention tremor 
noted
-Gait: Good initiation.  Narrow-based, normal stride and arm 
swing.  Able to walk in tandem without difficulty.  Romberg 
absent.
.
Cognition: 
 Wakefulness/alertness: Alert and awake 
 *Attention (digit span, MOYB): intact to MOYB and to interview
 *Orientation: oriented to person, place, time, and situation
 Executive function (go-no go, Luria, trails, FAS): not assessed 

 *Memory:   recall ___ and registration ___
 *Fund of knowledge: intact  
 Calculations: 1.75 as 7 quarters
 Abstraction:  "The grass is greener on the other side" as "it
always seems better than what you have"
 Visuospatial:  not assessed
 *Language: Fluent without paraphrasic errors 
 . 
Mental Status:
 *Appearance: appears stated age, latinx woman, wearing hospital
gown, fair grooming, lying in hospital bed 
 Behavior: cooperative, appropriate eye contact, no PMR/PMA, 
does
not appear to respond to internal stimuli 
 *Speech: Normal rate, rhythm, and volume 
 *Mood and Affect: "bad" / dysphoric, restricted range, some
reactivity, mood congruent
 *Thought process / *associations: Linear, logical / Intact  
 *Thought Content: +suicidal ideation, does not endorse HI, 
denies AVH or delusions.  
 *Judgment and Insight:  impaired/fair 
 
Pertinent Results:
___ 07:05PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-POS* oxycodn-NEG mthdone-NEG
___ 07:05PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 07:05PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-SM*
___ 07:05PM URINE  RBC-2 WBC-3 BACTERIA-NONE YEAST-NONE 
EPI-1
___ 07:05PM URINE  HYALINE-60*
___ 07:05PM URINE  MUCOUS-OCC*
___ 04:40PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG

 
Brief Hospital Course:
LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission. She was also placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted.
.
PSYCHIATRIC:
Ms. ___ is a ___ ___ female with pphx of Bipolar 
Disorder, ADHD, tobacco use disorder and pmh of HTN and s/p 
gastric sleeve in ___ who was referred to the ED by 
psychiatrist for increasing depression and suicidal ideation w/ 
recent suicide attempt by overdosing on benzodiazepines and 1 
week of RLQ pain. In the ED Ms. ___ was found to meet S12a 
criteria on initial evaluation by psychiatry consultant. On 
arrival to the unit she signed conditional voluntary which was 
accepted given patient met criteria for acute risk of harm to 
self and level of understanding/reasoning. 
.
On admission to the inpatient unit, interview was notable for 
increasing, intrusive thoughts of suicide, that were difficult 
to control. Additionally patient reported an attempted suicide 3 
weeks ago by benzodiazepine overdose with ongoing ambivalence 
about surviving. She endorsed symptoms consistent w/ depression 
including hypersomnia, fatigue, anhedonia, poor concentration, 
and hopelessness. Mental status exam was notable for patient 
appearing dysphoric with linear and goal oriented thought 
process. Labs were notable for slightly elevated WBC in setting 
of recent short episode of diarrhea and utox being positive for 
amphetamines, which is consistent w/ prescribed adderall.
.
Diagnostically, patient's presentation is most consistent with 
bipolar disorder, most recent episode  mixed. Patient does 
report hx of significant manic episode, pointing towards a 
bipolar diathesis. Given significant trauma hx and some symptoms 
of consistent w/ PTSD, cannot rule out PTSD. Additionally, 
patient meets criteria for tobacco use disorder and cannabis use 
disorder. 
.
During hospitalization, patient did not receive Vyvannse due to 
pharmacy formulary limitations; she initially reported 
frustration and fatigue without standing stimulant. However, she 
later reported improvement in mood and stated, "I crashed for 
the last three days. I was exhausted, and I realized that I 
needed to reset." Wellbutrin was initially increased to 450mg 
PO, but per patient request was lowered back to 300mg due to 
sleep disturbances. Patient received Ativan 1mg PO TID PRN 
anxiety/insomnia with good effect. Otherwise she was continued 
on home Abilify 20mg PO daily, and Topirimate 50mg PO BID.
.
Over the course of hospitalization, patient's mood stabilized, 
and she reported resolution of racing thoughts. While she admits 
to chronic, passive suicidal ideation, she denies active 
suicidal ideation, intent and plan. She is forward thinking, 
anticipates returning to work and recognizes the need for 
continued medication adherence and regular outpatient follow up. 
MSE on day of discharge is notable for a well groomed age 
appearing Hispanic female in casual clothing, in no acute 
distress. Her mood is "much better" and affect is full range, 
euthymic, and appropriate. Speech is regular in rate, volume and 
tone, and thought process is logical, linear and goal oriented. 
Patient did not appear internally preoccupied nor did she report 
auditory or visual hallucinations. Insight and judgment are fair 
as evidenced by patient's ability to relay how her actions led 
to hospitalization ("abusing my hypomania to get work done)and 
her plan going forward to pre-package her daily medications and 
take time to rest and reset more frequently. 
.
SUBSTANCE USE DISORDERS:
Patient was determined to demonstrate evidence of a cannabis use 
disorder and tobacco use disorder. We offered NRT and prescribed 
this on discharge. We inquired into the history of patient's 
substance use and engaged in a discussion of the risks and 
benefits and assessed for stage of motivation to quit and 
provided support/resources as appropriate. Patient has primary 
care and psychiatric follow up scheduled for ongoing substance 
use counseling. 
 .
MEDICAL
#Colitis 
In the emergency department, patient reported diarrhea and CT 
abdomen/pelvis showed eccentric wall thickening of the cecum and 
ascending colon with surrounding inflammation suggesting primary 
colitis.  Per ED recommendations, patient was started on and 
completed a 7 day course of flagyl 500mg TID and Ciprofloxacin 
500mg TID. Diarrhea quickly resolved and C diff was negative. 
Prior to discharge, a primary care appointment was scheduled and 
patient should obtain a referral for an outpatient colonoscopy 
at this appointment. 
.
# HTN - Continued on home chlorthalidone 25 mg PO/NG DAILY
.
#Nutrition - history of binge eating disorder and gastrectomy; 
patient was continued on Topomax
.
PSYCHOSOCIAL
#GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
patient often attended and actively engaged these groups that 
focused on teaching patients various coping skills.  She was 
pleasant and cooperative in the milieu. 
.
#COLLATERAL CONTACTS & FAMILY INVOLVEMENT
Collateral information from outpatient psychiatrist ___ 
MD) who has been working with patient ___ years; concerned for 
recent deterioration and suicide attempt given that patient has 
been relatively stable for many years. Does have episodes of 
hypomania (being loud, grandiose, wearing more makeup, disturbed 
sleep) in past few yrs but has had more depression (of note, 
during current interview, patient stated that she experienced 
more depressive episodes earlier in her illness, and in her ___, 
has more frequently experienced manic/hypomanic symptoms). He 
mentions that patient did have problems with alcohol.   
.
RISK ASSESSMENT & PROGNOSIS
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself  based upon risk of harm to 
self.  Her static factors noted at that time included history of 
suicide attempts, and  history of substance abuse. Her 
modifiable risk factors included impulsivity, anhedonia, 
depressed mood, hopelessness, and social isolation, 
unpredictable behavior, medication non-compliance,  and were 
addressed  with individual and group therapy, medication 
adjustments, and coordination with outpatient providers for 
aftercare.  Finally, the patient is being discharged with many 
protective risk factors,  including help-seeking nature, 
future-oriented viewpoint, life satisfaction, reality testing 
ability, good problem-solving skills, and positive therapeutic 
relationship with outpatient providers. Overall, based on the 
totality of our assessment at this time, the patient is not at 
an acutely elevated risk of self-harm nor danger to others.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LORazepam 1 mg PO TID:PRN anxiety/insomnia 
2. Vyvanse (lisdexamfetamine) 60 mg oral DAILY 
3. guanFACINE 3 mg oral DAILY 
4. Dextroamphetamine 20 mg PO DAILY 
5. BuPROPion XL (Once Daily) 300 mg PO DAILY 
6. Topiramate (Topamax) 50 mg PO BID 
7. ARIPiprazole 20 mg PO DAILY 
8. Chlorthalidone 25 mg PO DAILY 

 
Discharge Medications:
1.  Nicotine Polacrilex 2 mg PO Q1H:PRN nicotine cravings 
RX *nicotine (polacrilex) [Nicorelief] 2 mg chew one piece every 
hour Disp #*45 Gum Refills:*0 
2.  ARIPiprazole 20 mg PO DAILY  
3.  BuPROPion XL (Once Daily) 300 mg PO DAILY  
4.  Chlorthalidone 25 mg PO DAILY  
5.  Dextroamphetamine 20 mg PO DAILY 
RX *dextroamphetamine 10 mg 2 tablet(s) by mouth once a day Disp 
#*28 Tablet Refills:*0 
6.  guanFACINE 3 mg oral DAILY  
7.  LORazepam 1 mg PO TID:PRN anxiety/insomnia  
8.  Topiramate (Topamax) 50 mg PO BID  
9.  Vyvanse (lisdexamfetamine) 60 mg oral DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bipolar Disorder, most recent episode mixed
Cannabis Use Disorder
Tobacco Use Disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___